US07166625B2
Thioformamide (7.5 g, 122.72 mmol), ethyl 2-chloroacetoacetate (16.4 g, 99.52 mmol) and magnesium carbonate (20 g, 237.22 mmoL) were taken dioxane (100 mL) and heated at 110° C. for 4 hrs. The reaction mixture was cooled to room temperature and filtered to remove magnesium carbonate. The solvent was evaporated to dryness and the residue was taken in ether (200 mL) and washed successively with 0.5 M NaOH solution (200 mL×2) and saturated brine solution (100 mL) and dried over Na2SO4. It was filtered and evaporated to give 4-methyl-5-(ethoxycarbonyl)thiazole as an oil which was purified by silica gel column chromatography using hexanes:EtOAc (8:2, v/v) as a eluent; yield: 3.28 g (17%).

reactant | Thioformamide | 122.72 mmol, 7.5 g | C(=S)N | CH3NS
reactant | ethyl 2-chloroacetoacetate | 99.52 mmol, 16.4 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | magnesium carbonate | 20 g | C([O-])([O-])=O.[Mg+2]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-methyl-5-(ethoxycarbonyl)thiazole | CC=1N=CSC1C(=O)OCC | C7H9NO2S
